US07589232B2
5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutanoyl)amino]-2-fluorobenzoic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)-glucitol) salt
The titled compound was prepared following the procedure D using 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutanoyl)amino]-2-fluorobenzoic acid and N-methyl-D-glucamine as a white powder (90%). M− (ESI): 498.0; M+ (ESI): 500.4. HPLC, Rt: 5.48 min (Purity: 99.3%).

reactant | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutanoyl)amino]-2-fluorobenzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)F)C(CC(C)(C)C)=O)C=C1 | C32H34FNO3
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutanoyl)amino]-2-fluorobenzoic acid N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)F)C(CC(C)(C)C)=O)C=C1 | InChI=1S/C32H34FNO3.C7H17NO5/c1-5-6-7-23-8-10-24(11-9-23)12-13-25-14-16-26(17-15-25)22-34(30(35)21-32(2,3)4)27-18-19-29(33)28(20-27)31(36)37;1-8-2-4(10)6(12)7(13)5(11)3-9/h8-11,14-20H,5-7,21-22H2,1-4H3,(H,36,37);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
